US07525717B2
1-Ethyl-N-methyl-N-pyridin-2-yl-1H-benzimidazol-2-amine
To a flask were added 1.06 g of di-(2-picolyl)amine and 20 ml of acetonitrile. The solution was stirred under nitrogen, when 0.7 g of triethylamine were added, followed by 1.5 g of trimethylacetyl chloride. After 1 hour, 20 ml of water were added and the acetonitrile was removed. The product was extracted with ethyl acetate and washed with water. Following solvent removal, the product was recrystallized by dissolving in 6 ml hot hexane with 0.5 ml 2-propanol. Another 2 ml hexane were added and the mixture was cooled to 5 C, filtered, washed with hexane and dried, resulting in 1.3 g of an off-white solid.

reactant | di-(2-picolyl)amine | 1.06 g | N1=C(C=CC=C1)CNCC1=NC=CC=C1 | C12H13N3
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 1.5 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | water | 20 ml | O | H2O
product | 1-Ethyl-N-methyl-N-pyridin-2-yl-1H-benzimidazol-2-amine | 1.3 g | C(C)N1C(=NC2=C1C=CC=C2)N(C2=NC=CC=C2)C | C15H16N4
